US09283230B2
Synthesis of 3,7-dinitro-10-acetylphenothiazine (3)
To a 3 necked 500 ml round bottom flask fitted with a thermometer and a condenser was added 3,7-dinitro-10H-phenothiazine (MW 289.27 g/mol, 29.00 g, 100 mmol), dimethylformamide (58 ml), acetic anhydride (MW 102.09 g/mol, 102.09 g, 1000 mmol) and triethylamine (MW 101.19 g/mol, 40.88 g, 401 mmol). The mixture was heated to 105° C. and stirred at this temperature for 3 hours. The mixture was cooled to ambient temperature (21° C.) before being cooled to 5° C. whereby it was stirred for 1 hour. The product was isolated by filtration and washed with methanol (3×30 ml) to give a light yellow crystalline solid, which was dried at 50° C. for 15 hours (MW 331.31 g/mol, 26.94 g, 81%).

reactant | 3,7-dinitro-10H-phenothiazine | 100 mmol, 29.00 g | [N+](=O)([O-])C=1C=CC=2NC3=CC=C(C=C3SC2C1)[N+](=O)[O-] | C12H7N3O4S
reactant | acetic anhydride | 1000 mmol, 102.09 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 401 mmol, 40.88 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 58 ml | CN(C=O)C | C3H7NO
product | 3,7-dinitro-10-acetylphenothiazine | [N+](=O)([O-])C=1C=CC=2N(C3=CC=C(C=C3SC2C1)[N+](=O)[O-])C(C)=O | C14H9N3O5S
